US06159979
N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-N'-[5-(pyridin-3-yl)naphth-1-yl]urea
The title compound was prepared from N-[5-bromo-1- naphthyl]-N'-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl] urea (E19) and 3-pyridylboronic acid using a similar procedure to Example 4 as a white solid (28%).

reactant | N-[5-bromo-1- naphthyl]-N'-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl] urea | BrC1=C2C=CC=C(C2=CC=C1)NC(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | C23H25BrN4O2
reactant | 3-pyridylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-N'-[5-(pyridin-3-yl)naphth-1-yl]urea | COC1=C(C=C(C=C1)NC(=O)NC1=CC=CC2=C(C=CC=C12)C=1C=NC=CC1)N1CCN(CC1)C | C28H29N5O2
